US09102591B2
Oxalic acid (11.2 g, 0.124 mol) was dissolved in water (40 mL) and 144,4,6-trimethyl-[1,3]oxazinan-2-yl)-cyclopropanecarboxylic acid ethyl ester (15 g, 0.062 mol) was added. Steam distillation of this mixture was carried out until 500 mL of distillate had been collected. The distillate was saturated with NaCl and extracted with EtOAc (2×100 mL). The organic extracts were dried over Na2SO4 and concentrated under reduced pressure to give 1-formyl-cyclopropanecarboxylic acid ethyl ester (4.5 g, 51%). 1H NMR (CDCl3 400 MHz): δ10.39 (s, 1H), 4.26 (q, J=7.2 Hz, 2H), 1.67-1.64 (m, 2H), 1.61-1.58 (m, 2H), 1.31 (t, J=7.2 Hz, 3H).

reactant | Oxalic acid | 0.124 mol, 11.2 g | C(C(=O)O)(=O)O | C2H2O4
reactant | cyclopropanecarboxylic acid ethyl ester | 0.062 mol, 15 g | C(C)OC(=O)C1CC1 | C6H10O2
solvent | water | 40 mL | O | H2O
product | 1-formyl-cyclopropanecarboxylic acid ethyl ester | 4.5 g, 51% | C(C)OC(=O)C1(CC1)C=O | C7H10O3
